US09260441B2
Step E: tert-Butyl 4-(4-ethoxy-6-methyl-2-pyridyl)piperazine-1-carboxylate
2-Bromo-4-ethoxy-6-methylpyridine (108 mg, 0.5 mmol), tert-butyl piperazine-1-carboxylate (140 mg, 0.75 mmol), Pd2(DBA)3 (10 mg, 0.011 mmol), sodium tert-butoxide (80 mg, 0.825 mmol) and BINAP (20 mg, 0.032 mmol) were placed in anhydrous THF (3 ml) under argon and heated at 80° C. for 30 minutes under microwave heating. The mixture was diluted with ethyl acetate, filtered through kieselguhr and concentrated under reduced pressure. The residue was dissolve in DCM and filtered through a plug of silica. The filter was washed with a mixture of DCM and diethylether, the combined filtrates were concentrated to dryness under reduced pressure to give 141 mg (0.44 mmol, 88% yield) MS (multi-mode) m/z=322.2 [M+H]+.

reactant | 2-Bromo-4-ethoxy-6-methylpyridine | 0.5 mmol, 108 mg | BrC1=NC(=CC(=C1)OCC)C | C8H10BrNO
reactant | tert-butyl piperazine-1-carboxylate | 0.75 mmol, 140 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | sodium tert-butoxide | 0.825 mmol, 80 mg | CC(C)([O-])C.[Na+]
reactant | BINAP | 0.032 mmol, 20 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd2(DBA)3 | 0.011 mmol, 10 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-Butyl 4-(4-ethoxy-6-methyl-2-pyridyl)piperazine-1-carboxylate | 88% yield | C(C)OC1=CC(=NC(=C1)C)N1CCN(CC1)C(=O)OC(C)(C)C | C17H27N3O3
